US04219480
2-(2-Hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole
Using the general procedure 6, 35.5 grams of 2-nitro-2'-hydroxy-3',5'-di-tert-butylazobenzene was suspended in 100 grams of tributyl phosphate, 50 grams of methanol and 4 grams of sodium hydroxide. To the suspension was then added 8 grams of Raney nickel catalyst and hydrogenation was carried out under 1 atmosphere of hydrogen at 45° C. for 7 hours. The catalyst was separated by filtration at 80° C. The above named product was obtained in the usual manner in a yield of 85.8%.

reactant | 2-nitro-2'-hydroxy-3',5'-di-tert-butylazobenzene | 35.5 grams | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
reactant | methanol | 50 grams | CO | CH4O
reactant | sodium hydroxide | 4 grams | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | tributyl phosphate | 100 grams | P(=O)(OCCCC)(OCCCC)OCCCC | C12H27O4P
catalyst | Raney nickel | 8 grams | [Ni] | Ni
product | 2-(2-Hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | yield of 85.8% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
